US07227035B2
Synthesis of N-(2-Benzoyl-4-chloro-phenyl)-4-methoxy-benzenesulfonamide
The known compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using (2-Amino-5-chloro-phenyl)-phenyl-methanone and 4-methoxy-benzenesulfonyl chloride and purified by flash chromatography (20% EtOAc.Hexane). 1H NMR (CDCl3) δ 9.63 (s, 1H) 7.75 (d, J=12 Hz, 1H) 7.57 (m, 3H) 7.49–7.35 (m, 5H) 7.33 (d, J=4 Hz, 1H) 6.69 (d, J=12 Hz, 2H) 3.67 (s, 3H). MS; m/z=402.0 (M++1).

reactant | (2-Amino-5-chloro-phenyl)-phenyl-methanone | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=CC=C1 | C13H10ClNO
reactant | 4-methoxy-benzenesulfonyl chloride | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
product | N-(2-Benzoyl-4-chloro-phenyl)-4-methoxy-benzenesulfonamide | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)NS(=O)(=O)C1=CC=C(C=C1)OC | C20H16ClNO4S
